2154-05-24 07:17:00 Physician Resident Progress Note
TITLE: SUB-INTERN PROGRESS NOTE
   24 Hour Events:
   - Admit yesterday to CCU. Poor diuresis with lasix boluses, so started
   on lasix drip at 10, still poor diuresis, up to lasix 20, put out
   25-265 cc / hr.
   - CK: 22>26 Trop-T: 0.02>0.03
   Allergies:
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 20 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2154-5-23**] 04:57 PM
   Heparin Sodium (Prophylaxis) - [**2154-5-23**] 10:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-5-24**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.1
C (97
   HR: 96 (84 - 109) bpm
   BP: 97/67(74) {81/52(60) - 105/71(79)} mmHg
   RR: 22 (19 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                     33 mL
                                                                    139 mL
   PO:
             TF:
   IVF:
                                                                     33 mL
                                                                    139 mL
   Blood products:
   Total out:
                                                                    865 mL
                                                                    750 mL
   Urine:
                                                                    865 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -832 mL
                                                                   -611 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, 3.5L (down from 4L yesterday)
   SpO2: 100%
   Physical Examination
   Labs / Radiology
   277 K/uL
   10.9 g/dL
   30.1 %
   6.0 K/uL
        [image002.jpg]
                             [**2154-5-23**]  02:30 PM
                             [**2154-5-23**]  09:57 PM
   WBC
   5.4
   Hct
   34.3
   Plt
   297
   Cr
   2.2
   TropT
   0.02
   0.03
   Glucose
   146
   Other labs: PT / PTT / INR:16.4/30.4/1.5, CK / CKMB /
   Troponin-T:26//0.03, Differential-Neuts:81.2 %, Lymph:12.2 %, Mono:6.0
   %, Eos:0.4 %, Ca++:8.2 mg/dL, Mg++:2.2 mg/dL, PO4:5.5 mg/dL
   MICROBIOLOGY:
   -          C. diff negative x1
   -          Bcx
 NGTD
   -          Ucx
 NGTD
   Assessment and Plan
   78F with severe AS and CAD (3VD), diabetes mellitus type II, systolic
   dysfunction with EF 20-30%, PVD s/p bilateral fem-[**Doctor Last Name 1046**] and
   transmetatarsal amputation and recent skin grafting of right foot
   ([**Date range (1) 6708**]/09, vascular service), SVT s/p ablation transferred from OSH
   with hypotension, dyspnea.
   .
   #. Dyspnea:  Likely fluid overload secondary to AS, systolic
   dysfunction. Patient was recently fluid bolused and furosemide stopped
   due to orthostasis at rehabilitation facility. Clinically appears fluid
   overloaded, with JVD, crackles, lower extremity edema. Pneumonia less
   likely given lack of fever, productive cough, although patient does
   have report of infiltrates on chest radiograph. PE possible given that
   patient has been bedbound recently following surgical procedure,
   although she is not tachycardic or hypoxic. Given history of 3VD,
   concern also for ischemic event - no EKG changes at this time, troponin
   mildly elevated with normal CK.
   - Diuresis with Lasix IV
   - Cycle cardiac enzymes
   - CAD management as per below
   - Aortic stenosis management as per below
   - Will hold off on antibiotic therapy at this time; if patient is
   febrile, will pursue infectious workup and start therapy for hospital
   acquired pneumonia
   .
   #. Hypotension:  Patient required dopamine at outside hospital and was
   quickly weaned off on arrival to [**Hospital1 5**]. Differential includes
   cardiogenic shock - poor cardiac output secondary to critical aortic
   stenosis and known systolic dysfunction. In addition, septic shock is
   also possible given bilateral infiltrates on chest radiograph although
   patient is without fever or leukocytosis at this time. If patient has
   had recent low PO intake, she may be intravascularly depleted.
   - Weaned off of dopamine
   - Hold off on fluids at this time given decompensated heart failure
   - Aortic stenosis as per below
   - Close BP monitoring
   .
   #. Severe AS:  [**Location (un) 549**] 0.7, peak gradient 42 in [**5-3**]. Has had 5 episodes of
   decompensated heart failure since [**Month (only) **]. Patient was previously
   evalauted by CT surgery during last hospitalization; at that time she
   was felt to be candidate after improvement of right foot infection
   - CT surgery consult
   - Holding Plavix in case of surgery
   - Diuresis, as above
   - Holding beta-blocker given low blood pressure
   .
   #. CORONARIES:  Has significant CAD history. No indication of ACS at
   this time base on EKG, cardiac enzymes.
   - Cycle cardiac enzymes
   - Monitor on telemetry
   - Continue aspirin 81mg PO daily
   - Plavix held, as above, in anticipation of surgery
   - Continue simvastatin, fenofibrate
   - Holding beta-blocker, as above
   .
   #. RHYTHM:  History of SVT s/p ablation. Currently in sinus rhythm.
   .
   #. PVD:  Severe, with previous amputations and right foot post-surgical
   infection. Recently underwent skin grafting of right foot.
   - Vascular surgery consult
   - Continue aspirin
   - Holding Plavix, as above
   - Continue statin
   - Wound care recs
   .
   #. History of recent C. difficile:  Last dose of vancomycin PO on
   [**2154-5-17**]. Still with 3-4 loose BM per day.
   - Contact precautions
   - Continue Lactobacillus per home regimen
   - If diarrhea persists, resend C difficile
   .
   #. Diabetes mellitus, type II:
   - Holding oral hypoglycemics
   - Humalog sliding scale insulin
   .
   #. Acute kidney injury:  Baseline creatinine 0.7-0.9. At time of last
   discharge ([**2154-5-9**]), creatinine was 1.8. Currently 2.2. Likely prerenal
   given poor cardiac output secondary to aortic stenosis, systolic
   dysfunction. [**Month (only) 8**] also have component of ATN secondary to recent episode
   of hypotension, although uptrending of creatinine extends back to
   previous hospitalization. Patient was on vancomycin at previous
   hospitalization for C difficile, although this was stopped on [**2154-5-17**].
   - Expect improvement with diuresis
   - If creatinine continues to worsen, will send urine lytes, eos to
   assess for ATN vs. prerenal etiology vs. AIN
   .
   #. Thrush:  Unclear why this immunocompetent individual not on steroid
   inhalers would experience thrush.
   - Oral nystatin
   .
   #. Hypothyroidism:  Previously underwent thyroidectomy for unknown
   reason.
   - Continue levothyroxine per home regimen
   .
   #. Anemia of chronic disease:  Borderline macrocytic anemia. Baseline
   hematocrit 26-30; currently 34, potentially secondary to
   hemoconcentration. In [**3-4**], iron 23, TIBC 181, ferritin 912. B12,
   folate normal at that time.
   - Continue iron supplementation
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2154-5-23**] 02:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2154-05-25 07:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**2154-5-24**]:
   - Aiming for goal negative 500L today. Negative 2 L. Lasix gtt off
   since 1 pm.
   - Restarted BB at 1/2 home dose
   - Chest CT done on [**5-24**] showed: Left peri-hilar infiltrate vs atypical
   fluid (prelim read).
   - Carotid U/S showed mild plaque, narrowing under 40% BL, normal
   vertebrals.
   - Nurse [**First Name (Titles) 1558**] [**Last Name (Titles) **] swelling greater than LUE swelling. Pulses intact.
   Consider U/s if does not improve to r/o dvt.
   Allergies:
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2154-5-24**] 08:30 AM
   Heparin Sodium (Prophylaxis) - [**2154-5-24**] 04:00 PM
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems: None
   Flowsheet Data as of  [**2154-5-25**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.9
C (98.4
   HR: 101 (89 - 104) bpm
   BP: 90/48(55) {81/48(55) - 104/71(77)} mmHg
   RR: 27 (11 - 27) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
                  Total In:
                                                                    635 mL
                                                                    120 mL
   PO:
                                                                    400 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    235 mL
   Blood products:
   Total out:
                                                                  2,680 mL
                                                                    350 mL
   Urine:
                                                                  2,680 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,045 mL
                                                                   -230 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///24/
   Physical Examination
   GENERAL: pleasant woman sitting up in bed in NAD. Alert and oriented
   x3. Mood, affect appropriate.
   HEENT: PERRL, EOMI.
   NECK: Supple, JVP not discernable
   CARDIAC: crescendo/decrescendo murmur heart best at RUSB, S1 clear, S2
   not appreciable, slightly tachycardic but regular rhythm.
   LUNGS: wheezing and crackles present up 3/4 of lungs.
   ABDOMEN: Soft, NTND. BS+
   EXTREMITIES: moderately well-perfused, 2+ pitting edema up to knees.
   Amputation of toes b/l. Lukewarm.
   Labs / Radiology
   296 K/uL
   10.7 g/dL
   99 mg/dL
   1.9 mg/dL
   24 mEq/L
   4.0 mEq/L
   35 mg/dL
   105 mEq/L
   142 mEq/L
   32.5 %
   5.4 K/uL
        [image002.jpg]
                             [**2154-5-23**]  02:30 PM
                             [**2154-5-23**]  09:57 PM
                             [**2154-5-24**]  06:29 AM
                             [**2154-5-24**]  04:00 PM
                             [**2154-5-25**]  05:10 AM
   WBC
   5.4
   6.0
   5.4
   Hct
   34.3
   30.1
   32.5
   Plt
   297
   277
   296
   Cr
   2.2
   2.0
   1.9
   1.9
   TropT
   0.02
   0.03
   0.02
   Glucose
   146
   162
   99
   Other labs: PT / PTT / INR:15.9/86.4/1.4, CK / CKMB /
   Troponin-T:25//0.02, Differential-Neuts:78.5 %, Lymph:14.2 %, Mono:6.3
   %, Eos:0.7 %, Ca++:8.2 mg/dL, Mg++:2.2 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 HEART FAILURE (CHF), SYSTOLIC, ACUTE ON CHRONIC
 PERIPHERAL VASCULAR DISEASE (PVD) WITH CRITICAL LIMB ISCHEMIA
 ALTERATION IN ELIMINATION RELATED TO DIARRHEA
   78F with severe AS and CAD (3VD), diabetes mellitus type II, systolic
   dysfunction with EF 20-30%, PVD s/p bilateral fem-[**Doctor Last Name 1046**] and
   transmetatarsal amputation and recent skin grafting of right foot
   ([**Date range (1) 6708**]/09, vascular service), SVT s/p ablation transferred from OSH
   with hypotension, dyspnea.
   .
   #. Dyspnea:  Etiology is most likely [**1-28**] CHF and heart decompensation
   in the setting of severe AS. Will continue to diurese with a goal of
   -500 cc to -1L today. Monitor weight as well, keeping in mind his
   original weight at OSH was 203 lb. Another etiology is pneumonia, but
   given lack of fever, leukocytosis, and overall well appearance, this is
   an unlikely etiology.
   - Diuresis with Lasix IV
   - Cycle cardiac enzymes
   - CAD management as per below
   - Aortic stenosis management as per below
   - Will hold off on antibiotic therapy at this time; if patient is
   febrile, will pursue infectious workup and start therapy for hospital
   acquired pneumonia
   .
   #. Severe AS:  [**Location (un) 549**] 0.7, peak gradient 42 in [**5-3**]. Has had 5 episodes of
   decompensated heart failure since [**Month (only) **]. Patient was previously
   evalauted by CT surgery during last hospitalization; at that time she
   was felt to be candidate after improvement of right foot infection
   - CT surgery recommendations: US carotids, CT scan chest, vein mapping
   done already.
   - Holding Plavix in case of surgery
   - Diuresis, as above
   - Can restart BB today at baby dose if BP tolerates.
   .
   #. CORONARIES:  Has significant CAD history. No indication of ACS at
   this time base on EKG, cardiac enzymes.
   - Cycle cardiac enzymes
   - Monitor on telemetry
   - Continue aspirin 81mg PO daily
   - Plavix held, as above, in anticipation of surgery
   - Continue simvastatin, fenofibrate
   - Can restart BB today at baby dose if BP tolerates.
   .
   #. RHYTHM:  History of SVT s/p ablation. Currently in sinus rhythm.
   .
   #. PVD:  Severe, with previous amputations and right foot post-surgical
   infection. Recently underwent skin grafting of right foot.
   - Vascular surgery consult
   - Continue aspirin
   - Holding Plavix, as above
   - Continue statin
   - Wound care is per vascular recommendations.
   .
   #. History of recent C. difficile:  Last dose of vancomycin PO on
   [**2154-5-17**]. Still with 3-4 loose BM per day.
   - Contact precautions
   - Continue Lactobacillus per home regimen
   - If diarrhea persists, resend C difficile
   .
   #. Diabetes mellitus, type II:
   - Holding oral hypoglycemics
   - Humalog sliding scale insulin
   .
   #. Acute kidney injury:  Baseline creatinine 0.7-0.9. At time of last
   discharge ([**2154-5-9**]), creatinine was 1.8. Currently 2.2. Likely prerenal
   given poor cardiac output secondary to aortic stenosis, systolic
   dysfunction. [**Month (only) 8**] also have component of ATN secondary to recent episode
   of hypotension, although uptrending of creatinine extends back to
   previous hospitalization. Patient was on vancomycin at previous
   hospitalization for C difficile, although this was stopped on [**2154-5-17**].
   - Expect improvement with diuresis
   - If creatinine continues to worsen, will send urine lytes, eos to
   assess for ATN vs. prerenal etiology vs. AIN
   .
   #. Thrush:  Unclear why this immunocompetent individual not on steroid
   inhalers would experience thrush.
   - Oral nystatin
   .
   #. Hypothyroidism:  Previously underwent thyroidectomy for unknown
   reason.
   - Continue levothyroxine per home regimen
   .
   #. Anemia of chronic disease:  Borderline macrocytic anemia. Baseline
   hematocrit 26-30; currently 34, potentially secondary to
   hemoconcentration. In [**3-4**], iron 23, TIBC 181, ferritin 912. B12,
   folate normal at that time.
   - Continue iron supplementation
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2154-5-23**] 02:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2154-05-26 06:48:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Increased BB to 12.5
   Allergies:
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2154-5-26**] 02:17 AM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Reports feeling well. No chest pain, dyspnea, palpitations.
   Flowsheet Data as of  [**2154-5-26**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.2
C (98.9
   HR: 106 (93 - 106) bpm
   BP: 95/66(73) {81/53(62) - 106/66(73)} mmHg
   RR: 26 (18 - 28) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
                  Total In:
                                                                    480 mL
                  PO:
                                                                    480 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                    678 mL
                                                                    120 mL
   Urine:
                                                                    678 mL
                                                                    120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -198 mL
                                                                   -120 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///23/
   Physical Examination
   GENERAL: pleasant woman sitting up in bed in NAD. Alert and oriented
   x3. Mood, affect appropriate.
   HEENT: PERRL, EOMI.
   NECK: Supple, JVP not discernable
   CARDIAC: crescendo/decrescendo murmur heart best at RUSB, S1 clear, S2
   not appreciable, slightly tachycardic but regular rhythm.
   LUNGS: wheezing and crackles present up 3/4 of lungs.
   ABDOMEN: Soft, NTND. BS+
   EXTREMITIES: moderately well-perfused, 2+ pitting edema up to knees.
   Amputation of toes b/l. Lukewarm.
   Labs / Radiology
   296 K/uL
   10.7 g/dL
   108 mg/dL
   1.7 mg/dL
   23 mEq/L
   4.4 mEq/L
   37 mg/dL
   105 mEq/L
   140 mEq/L
   33.2 %
   5.9 K/uL
        [image002.jpg]
   Ca 8.3, Mg 2.2, Phos 3.8
   INR 1.5
   PTT 33.0
                             [**2154-5-23**]  02:30 PM
                             [**2154-5-23**]  09:57 PM
                             [**2154-5-24**]  06:29 AM
                             [**2154-5-24**]  04:00 PM
                             [**2154-5-25**]  05:10 AM
                             [**2154-5-25**]  04:55 PM
                             [**2154-5-26**]  04:40 AM
   WBC
   5.4
   6.0
   5.4
   5.9
   Hct
   34.3
   30.1
   32.5
   33.2
   Plt
   297
   277
   296
   296
   Cr
   2.2
   2.0
   1.9
   1.9
   1.8
   1.7
   TropT
   0.02
   0.03
   0.02
   Glucose
   146
   162
   99
   108
   Other labs: PT / PTT / INR:16.5/33.0/1.5, CK / CKMB /
   Troponin-T:25//0.02, ALT / AST:22/29, Alk Phos / T Bili:48/0.3,
   Differential-Neuts:78.5 %, Lymph:14.2 %, Mono:6.3 %, Eos:0.7 %,
   Albumin:3.1 g/dL, Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:3.8 mg/dL
   C diff toxin ([**2154-5-23**]):  Negative
   Blood culture ([**2154-5-23**]):  No growth to date x2
   Urine culture ([**2154-5-23**]):  Yeast, final
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 HEART FAILURE (CHF), SYSTOLIC, ACUTE ON CHRONIC
 PERIPHERAL VASCULAR DISEASE (PVD) WITH CRITICAL LIMB ISCHEMIA
 ALTERATION IN ELIMINATION RELATED TO DIARRHEA
   78F with severe AS and CAD (3VD), diabetes mellitus type II, systolic
   dysfunction with EF 20-30%, PVD s/p bilateral fem-[**Doctor Last Name 1046**] and
   transmetatarsal amputation and recent skin grafting of right foot
   ([**Date range (1) 6708**]/09, vascular service), SVT s/p ablation transferred from OSH
   with hypotension, dyspnea.
   .
   #.  Decompensated heart failure:  Likely cause for patient
s dyspnea on
   admission. Heart failure secondary to systolic dysfunction and severe
   aortic stenosis. During this CCU stay have gently diuresed patient;
   given severe aortic stenosis, patient is largely preload dependent.
   Have also slowly uptitrated beta-blocker. Of note, patient did have
   10lb weight gain over 10 day period prior to admission.
   - Monitor I/Os; goal 0-500cc negative today; will give Lasix if
   necessary
   - CAD management as per below
   - Aortic stenosis management as per below
   - Uptitrate beta-blocker to 12.5mg PO TID
   .
   #. Severe AS:  [**Location (un) 549**] 0.7, peak gradient 42 in [**5-3**]. Has had 5 episodes of
   decompensated heart failure since [**Month (only) **]. Patient was previously
   evaluated by CT surgery during last hospitalization; at that time she
   was felt to be candidate after improvement of right foot infection.
   Right foot infection now improved/resolved.
   - CT surgery recs
   - Carotid ultrasounds, CT chest, vein mapping now completed
   - Holding Plavix in preparation for valve replacement
   .
   #. CORONARIES:  Has significant CAD history. No indication of ACS at
   this time base on EKG, cardiac enzymes.
   - Monitor on telemetry
   - Continue aspirin 81mg PO daily
   - Plavix held, as above, in anticipation of surgery
   - Continue simvastatin, fenofibrate
   - Uptitrate beta-blocker, as above
   #. RHYTHM:  History of SVT s/p ablation. Currently in sinus rhythm.
   .
   #. PVD:  Severe, with previous amputations and right foot post-surgical
   infection. Recently underwent skin grafting of right foot.
   - Vascular recs
   - Continue aspirin per home regimen
   - Plavix held, as above
   - Continue statin, fenofibrate
   #. History of recent C. difficile:  Last dose of vancomycin PO on
   [**2154-5-17**]. Still with 3-4 loose BM per day.
   - Contact precautions
   - Continue Lactobacillus per home regimen
   - If diarrhea persists, resend C difficile
   .
   #. Diabetes mellitus, type II:
   - Holding oral hypoglycemics
   - Humalog sliding scale insulin
   .
   #. Acute kidney injury:  Baseline creatinine 0.7-0.9. At time of last
   discharge ([**2154-5-9**]), creatinine was 1.8. Creatinine trending downwards
   since admission. Likely prerenal given poor cardiac output secondary to
   aortic stenosis, systolic dysfunction. [**Month (only) 8**] also have component of ATN
   secondary to recent episode of hypotension, although uptrending of
   creatinine extends back to previous hospitalization. Patient was on
   vancomycin at previous hospitalization for C difficile, although this
   was stopped on [**2154-5-17**].
   - If creatinine continues to worsen, will send urine lytes, eos to
   assess for ATN vs. prerenal etiology vs. AIN
   .
   #. Thrush:  Unclear why this immunocompetent individual not on steroid
   inhalers would experience thrush.
   - Oral nystatin
   .
   #. Hypothyroidism:  Previously underwent thyroidectomy for unknown
   reason.
   - Continue levothyroxine per home regimen
   .
   #. Anemia of chronic disease:  Borderline macrocytic anemia. Baseline
   hematocrit 26-30; currently 34, potentially secondary to
   hemoconcentration. In [**3-4**], iron 23, TIBC 181, ferritin 912. B12,
   folate normal at that time.
   - Continue iron supplementation
   ICU Care
   Nutrition:  Diabetic, low salt diet with fluid restriction; replete
   lytes as needed
   Glycemic Control:
   Lines:
   20 Gauge - [**2154-5-23**] 02:30 PM
   Prophylaxis:
   DVT:  Heparin SC TID
   Comments:
   Code status:  FULL CODE
   Disposition: